US08202873B2
Stir together bis(dibenzylideneacetone)palladium(0) (35 mg, 0.06 mmol) and tricyclohexylphosphine (39 mg, 0.06 mmol) in N,N-dimethylacetamide (4 mL) at room temperature under nitrogen for 20 min. Add racemic 2-(4-bromo-phenyl)-propionitrile (420 mg, 2.00 mmol), then 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (521 mg, 2.05 mmol) and potassium acetate (294 mg, 3.00 mmol) and stir at 80° C. for 16 hr. Cool reaction to room temperature, add 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (307 mg, 1.00 mmol), potassium carbonate (332 mg, 2.40 mmol), tetrakis(triphenylphosphine)palladium(0) (0.0050 g, 0.0056 mmol) and water (2 mL), then stir at 120° C. for 8 hr. Cool to room temperature, purify by SCX-2® chromatography washing with methanol then eluting with 2 M ammonia in methanol. Further purify (silica gel chromatography, eluting with 0:100 to 20:80 methanol:DCM), to give the free base racemate 2-{4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-propionitrile as a powder (433 mg, 107%). MS (ES): m/z=402 [M+H]+.

reactant | tricyclohexylphosphine | 0.06 mmol, 39 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | racemic 2-(4-bromo-phenyl)-propionitrile | 2.00 mmol, 420 mg | BrC1=CC=C(C=C1)C(C#N)C | C9H8BrN
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 2.05 mmol, 521 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.00 mmol, 294 mg | C(C)(=O)[O-].[K+]
reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.00 mmol, 307 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 2.40 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.06 mmol, 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0056 mmol, 0.0050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | 2-{4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-propionitrile | 433 mg, 107% | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)C(C#N)C | C23H27N7
